US08114868B2
To a solution of (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (0.729 g, 1.52 mmol) in 1,4-dioxane (16 mL) were added 5-bromo-1-cyclopropylpyridin-2(1H)-one (0.323 g, 1.51 mmol), 2 M aq Cs2CO3 (4 mL), and PdCl2(dppf)CH2Cl2 (0.079 g, 0.0964 mmol). The mixture was degassed and heated, under a nitrogen atmosphere, at 120° C. for 16 h. The mixture was diluted with CH2Cl2, dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with MeOH/CH2Cl2 to afford 0.543 g (74%) of (S)-3-((S)-1-(4-(1-cyclopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one. LC-MS Method 1 tR=1.41 min, m/z 487 (MH+); 1H NMR (400 MHz, CD3OD) δ 7.66-7.64 (m, 2H), 7.30-7.19 (m, 7H), 6.94 (d, J=8.2 Hz, 2H), 6.52 (d, J=10 Hz, 1H), 5.48 (q, J=7.0 Hz, 1H), 3.32-3.26 (m, 1H), 2.97-2.92 (m, 1H), 2.46-2.32 (m, 2H), 2.16-2.09 (m, 1H), 2.08 (s, 2H), 1.45 (d, J=7.0 Hz, 3H), 1.19 (s, 3H), 1.10-1.05 (m, 2H), 0.90-0.86 (m, 5H); 13C NMR (100 MHz, CD3OD) δ 165.59, 155.82, 144.08, 141.05, 139.60, 136.60, 136.30, 129.77, 128.86, 128.64, 126.83, 126.15, 121.93, 120.53, 85.33, 71.67, 55.18, 54.78, 37.46, 34.10, 33.04, 31.79, 30.00, 15.60, 7.49, 7.47.

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 1.52 mmol, 0.729 g | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 5-bromo-1-cyclopropylpyridin-2(1H)-one | 1.51 mmol, 0.323 g | BrC=1C=CC(N(C1)C1CC1)=O | C8H8BrNO
reactant | Cs2CO3 | 2 M, 4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | (S)-3-((S)-1-(4-(1-cyclopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 0.543 g, 74% | C1(CC1)N1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C30H34N2O4
